US07601716B2
4-{1-[5-Chloro-2-(trifluoromethyl)benzyl]-1,2,3,4-tetrahydropyrido[2,3-b]pyrazin-7-yl}-N-[4-(trifluoromethyl)benzyl]benzamide
4-{1-[5-chloro-2-(trifluoromethyl)benzyl]-1,2,3,4-tetrahydropyrido[2,3-b]pyrazin-7-yl}benzoic acid was reacted with 4-(trifluoromethyl)benzylamine as in General Procedure 10 to give the title compound. LCMS: m/z=604.92 (M+H+); retention time=1.01 minutes.

reactant | 4-{1-[5-chloro-2-(trifluoromethyl)benzyl]-1,2,3,4-tetrahydropyrido[2,3-b]pyrazin-7-yl}benzoic acid | ClC=1C=CC(=C(CN2C3=C(NCC2)N=CC(=C3)C3=CC=C(C(=O)O)C=C3)C1)C(F)(F)F | C22H17ClF3N3O2
reactant | 4-(trifluoromethyl)benzylamine | FC(C1=CC=C(CN)C=C1)(F)F | C8H8F3N
product | 4-{1-[5-Chloro-2-(trifluoromethyl)benzyl]-1,2,3,4-tetrahydropyrido[2,3-b]pyrazin-7-yl}-N-[4-(trifluoromethyl)benzyl]benzamide | ClC=1C=CC(=C(CN2C3=C(NCC2)N=CC(=C3)C3=CC=C(C(=O)NCC2=CC=C(C=C2)C(F)(F)F)C=C3)C1)C(F)(F)F | C30H23ClF6N4O
